US07951810B2
Step b: [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate
To a solution of [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate (13.4 g, 33.1 mmol) in DCM (330 mL) at r.t. was added DIPEA (11.5 mL, 66.2 mmol) followed by Ph3CCl (9.23 g, 33.1 mmol). The reaction was stirred at r.t. for 4 hours. The mixture was diluted with DCM, the layers were separated, and the organic layer was washed with 1N HCl followed by brine. The combined organic phases were dried (Na2SO4) and concentrated to yield the title compound as a white solid (17.6 g, 82%).

reactant | [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl sulfamate | 33.1 mmol, 13.4 g | S(N)(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl)(=O)=O | C13H16ClN5O6S
reactant | DIPEA | 66.2 mmol, 11.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Ph3CCl | 33.1 mmol, 9.23 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | DCM | 330 mL | C(Cl)Cl | CH2Cl2
product | [(3aR,4R,6R,6aR)-6-(6-chloro-9H-purin-9-yl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl]methyl tritylsulfamate | 17.6 g, 82% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NS(OC[C@H]1O[C@H]([C@@H]2OC(O[C@@H]21)(C)C)N2C1=NC=NC(=C1N=C2)Cl)(=O)=O | C32H30ClN5O6S
